US04511393
22.3 g of 3,7-dichloro-8-cyanoquinoline and 26 g of di-n-butylamine in 300 ml of methoxypropanol were refluxed for 12 hours, the solution was cooled, and the precipitated solid was filtered off under suction and recrystallized from a mixture of naphtha and toluene. 26 g of 3-chloro-8-cyano-7-di-n-butylaminoquinoline of melting point 112° C. were obtained. Yield: 82.5% of theory.

reactant | 3,7-dichloro-8-cyanoquinoline | 22.3 g | ClC=1C=NC2=C(C(=CC=C2C1)Cl)C#N | C10H4Cl2N2
reactant | di-n-butylamine | 26 g | C(CCC)NCCCC | C8H19N
solvent | methoxypropanol | 300 ml | COC(CC)O | C4H10O2
product | 3-chloro-8-cyano-7-di-n-butylaminoquinoline | 26 g, Yield: 82.5% | ClC=1C=NC2=C(C(=CC=C2C1)N(CCCC)CCCC)C#N | C18H22ClN3
